US05679696
Pyridinium dichromate (3.6 g) in dry dichloromethane (40 mL) under nitrogen is treated with (±)-1-(3-cyclopentyloxy-4-methoxyphenyl)-2-(pyrid-4-yl)ethanol (2.0 g; that is prepared as described in Reference Example 67), in one portion. The resulting mixture is stirred for 1 hour and 30 minutes, and then filtered through a pad of diatomaceous earth, and the pad is washed with diethyl ether. The combined filtrate and ethereal washings are washed with saturated aqueous cupric sulfate solution (2×30 mL), followed by water (30 mL), and then dried over magnesium sulfate. The solvent is removed under reduced pressure, and the resulting oily residue is subjected to flash chromatography on silica gel, eluting with ethyl acetate, to give 1-(3-cyclopentyloxy-4-methoxyphenyl)-2-(pyrid-4-yl)ethane-1,2-dione (0.4 g), in the form of a yellow solid, m.p. 117°-119° C. [Elemental analysis: C,70.1; H,6.0; N,4.1%; calculated: C,70.1; H,5.9; N,4.3%].

reactant | Pyridinium dichromate | 3.6 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | (±)-1-(3-cyclopentyloxy-4-methoxyphenyl)-2-(pyrid-4-yl)ethanol | C1(CCCC1)OC=1C=C(C=CC1OC)C(CC1=CC=NC=C1)O | C19H23NO3
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 1-(3-cyclopentyloxy-4-methoxyphenyl)-2-(pyrid-4-yl)ethane-1,2-dione | 0.4 g | C1(CCCC1)OC=1C=C(C=CC1OC)C(C(=O)C1=CC=NC=C1)=O | C19H19NO4
